US04036828
A mixture of 25.8 grams of 1-ethoxycarbonyl-cis-3,5-dimethylpiperazine, 38.6 grams of propyl 4-toluenesulfonate, 90 ml. of absolute ethanol and 9.5 grams of sodium carbonate is stirred and heated to reflux. After 30 minutes of reflux, vigorous evolution of carbon dioxide begins and continues for about 5 hours. Refluxing is continued for a total of 22 hours. The reaction mixture is then cooled and filtered and the solvent is evaporated. The resulting residue is mixed with 300 ml. of aqueous 1 N sodium hydroxide solution and the mixture is extracted with ethyl ether. The ether extract is washed successively with 100 ml. of aqueous 1 N sodium hydroxide and 100 ml. of water and then dried over anhydrous sodium sulfate. The organic solution is then treated with charcoal and the solvent is evaporated to leave a residue which is purified by chromatography to give 4-ethoxycarbonyl-cis-2,6-dimethyl-1-propylpiperazine.

reactant | 1-ethoxycarbonyl-cis-3,5-dimethylpiperazine | 25.8 grams | C(C)OC(=O)N1C[C@H](N[C@H](C1)C)C | C9H18N2O2
reactant | propyl 4-toluenesulfonate | 38.6 grams | C1(=CC=C(C=C1)S(=O)(=O)OCCC)C | C10H14O3S
reactant | sodium carbonate | 9.5 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethanol | C(C)O | C2H6O
product | 4-ethoxycarbonyl-cis-2,6-dimethyl-1-propylpiperazine | C(C)OC(=O)N1C[C@@H](N([C@@H](C1)C)CCC)C | C12H24N2O2
